US05064837
Following the procedure of example 22, react 8-fluoro-1-phenyl-3-bromomethyl-2(1H)-quinolone with sodium triazole in dimethylformamide. Chromatograph to obtain the major product, 1-phenyl-8-fluoro-3-(1H-1,2,4-triazol-1-yl-methyl)-2-(1H)quinolone.

reactant | 8-fluoro-1-phenyl-3-bromomethyl-2(1H)-quinolone | FC=1C=CC=C2C=C(C(N(C12)C1=CC=CC=C1)=O)CBr | C16H11BrFNO
reactant | sodium triazole | N1N=NC=C1.[Na]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-phenyl-8-fluoro-3-(1H-1,2,4-triazol-1-yl-methyl)-2-(1H)quinolone | C1(=CC=CC=C1)N1C(C(=CC2=CC=CC(=C12)F)CN1N=CN=C1)=O | C18H13FN4O
